US04801584
After a mixture of ethyl 8-benzyloxy-6,7-difluoro-4-hydroxy-3-quinolinecarboxylate (410 mg) and anhydrous potassium carbonate (315 mg) in dry dimethylformamide (10 ml) was stirred at room temperature for 3 hours, O-(2,4-dinitrophenyl)hydroxylamine (260 mg) was added. The mixture was stirred at room temperature for further 6.5 hours. After removal of the solvent under reduced pressure, water (12 ml) was added to the residue, and the mixture was stirred at room temperature for 3 hours. The precipitate was collected by filtration and washed with cold water and then with ether to give 405 mg of ethyl 1-amino-8-benzyloxy-6,7-difluoro-4-oxo-1,4-dihydro -3-quinolinecarboxylate. An analytical sample, mp 143°-144° C.; MS m/z 374 (M+), was prepared by recrystallization from methanol.

reactant | ethyl 8-benzyloxy-6,7-difluoro-4-hydroxy-3-quinolinecarboxylate | 410 mg | C(C1=CC=CC=C1)OC=1C(=C(C=C2C(=C(C=NC12)C(=O)OCC)O)F)F | C19H15F2NO4
reactant | potassium carbonate | 315 mg | C([O-])([O-])=O.[K+].[K+]
reactant | O-(2,4-dinitrophenyl)hydroxylamine | 260 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])ON | C6H5N3O5
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 1-amino-8-benzyloxy-6,7-difluoro-4-oxo-1,4-dihydro -3-quinolinecarboxylate | 405 mg | NN1C=C(C(C2=CC(=C(C(=C12)OCC1=CC=CC=C1)F)F)=O)C(=O)OCC | C19H16F2N2O4
